*SPICE Netlist for circuit 787
C1 0 1 1nF
C2 2 0 1nF
M2 7 3 1 1 NMOS W=1u L=1u
M1 6 3 8 10 10 NMOS W=1u L=1u
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)

.OP
.END

